US08013008B2
benzyl (2RS,3SR)-3-hydroxy-2,4,4-trimethylpyrrolidine-1-carboxylate
A solution (20 mL) of benzyl [2-(tert-butyldimethylsilyloxy)-4-hydroxy-1,3,3-trimethylbutyl]carbamate (1.38 g) and triethylamine (0.73 mL) in THF was added mesyl chloride (0.352 mL) at 0° C., and the mixture was stirred at 0° C. for 45 min. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To a solution (20 mL) of the residue in THF was added 1M potassium tert-butoxide—THF solution (3.8 mL). After stirring at room temperature for 1 hr, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To a solution (10 mL) of the residue in THF was added 1M tetrabutylammonium fluoride—THF solution (4 mL), and the mixture was stirred at room temperature for 17 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→1/2) to give the title compound as a colorless solid (yield: 842 mg, yield: 92%).

reactant | benzyl [2-(tert-butyldimethylsilyloxy)-4-hydroxy-1,3,3-trimethylbutyl]carbamate | 20 mL, 1.38 g | [Si](C)(C)(C(C)(C)C)OC(C(C)NC(OCC1=CC=CC=C1)=O)C(CO)(C)C | C21H37NO4Si
reactant | triethylamine | 0.73 mL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.352 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | benzyl (2RS,3SR)-3-hydroxy-2,4,4-trimethylpyrrolidine-1-carboxylate | yield: 842 mg, yield: 92% | OC1C(N(CC1(C)C)C(=O)OCC1=CC=CC=C1)C | C15H21NO3
